US05457105
Using an analogous procedure to that described in the portion of Example 1 which is concerned with the preparation of starting materials, 4-nitroanthranilic acid was converted into 4-chloro-7-nitroquinazoline. Using an analogous procedure to that described in Example 1 except that the reactants were stirred together at ambient temperature for 20 minutes, 4-chloro-7-nitroquinazoline was reacted with 3-methylaniline to give 4-(3'-methylanilino)-7-nitroquinazoline.

reactant | 4-nitroanthranilic acid | [N+](=O)([O-])C=1C=C(C(C(=O)O)=CC1)N | C7H6N2O4
reactant | 4-chloro-7-nitroquinazoline | ClC1=NC=NC2=CC(=CC=C12)[N+](=O)[O-] | C8H4ClN3O2
reactant | 3-methylaniline | CC=1C=C(N)C=CC1 | C7H9N
product | 4-(3'-methylanilino)-7-nitroquinazoline | CC=1C=C(NC2=NC=NC3=CC(=CC=C23)[N+](=O)[O-])C=CC1 | C15H12N4O2
